US06335353B1
2-(1′-Hydroxypropyl)-3-benzyloxy-6-methyl-pyran-4(1H)-one
The title compound was prepared by the method outlined for 2-hydroxymethyl-3-benzyloxy-6-methyl-pyran-4(1H)-one, using 7.36 g (40 mmol, 1 eq.) of 2-(1-hydroxypropyl)-3-hydroxy-6methyl-pyran-4(1H)-one and 7.5 g benzyl bromide (44 mmol, 1.1 eq.) to yield the pure product 8.9 g (81.2%) after recrystallisation from CH2Cl2/Pet. ether 40/60, as a white crystalline solid. m.p. 88-89° C.

reactant | 2-hydroxymethyl-3-benzyloxy-6-methyl-pyran-4(1H)-one | OCC=1OC(=CC(C1OCC1=CC=CC=C1)=O)C | C14H14O4
reactant | 2-(1-hydroxypropyl)-3-hydroxy-6methyl-pyran-4(1H)-one | 40 mmol, 7.36 g, 1 eq. | OC(CC)C=1OC(=CC(C1O)=O)C | C9H12O4
reactant | benzyl bromide | 44 mmol, 7.5 g, 1.1 eq. | C(C1=CC=CC=C1)Br | C7H7Br
product | 2-(1′-Hydroxypropyl)-3-benzyloxy-6-methyl-pyran-4(1H)-one | OC(CC)C=1OC(=CC(C1OCC1=CC=CC=C1)=O)C | C16H18O4
